US08877774B2
Step 3. 3-(1,3-Dioxolan-2-yl)propyl 4-((4-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)piperidin-1-yl)methyl)benzoate
To a stirred solution of tert-butyl(phenyl(3-(piperidin-4-ylmethoxy)phenyl)-methyl)carbamate (0.335 g, 0.84 mmol) and 3-(1,3-dioxolan-2-yl)propyl 4-formylbenzoate (0.706 g, 2.67 mmol) in DCM (5 mL), was added sodium triacetoxyborohydride (0.213 g, 1.01 mmol). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with DCM and washed with water, saturated aqueous sodium hydrogen carbonate, and brine. The organic phase was dried with anhydrous magnesium sulfate, and the solvent evaporated at reduced pressure. The residue was triturated with iso-hexane/diethyl ether (3:1) to afford the title compound (0.286 g, 0.44 mmol).

reactant | tert-butyl(phenyl(3-(piperidin-4-ylmethoxy)phenyl)-methyl)carbamate | 0.84 mmol, 0.335 g | C(C)(C)(C)OC(NC(C1=CC(=CC=C1)OCC1CCNCC1)C1=CC=CC=C1)=O | C24H32N2O3
reactant | 3-(1,3-dioxolan-2-yl)propyl 4-formylbenzoate | 2.67 mmol, 0.706 g | C(=O)C1=CC=C(C(=O)OCCCC2OCCO2)C=C1 | C14H16O5
reactant | sodium triacetoxyborohydride | 1.01 mmol, 0.213 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,3-Dioxolan-2-yl)propyl 4-((4-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)piperidin-1-yl)methyl)benzoate | 0.44 mmol, 0.286 g | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2CCN(CC2)CC2=CC=C(C(=O)OCCCC3OCCO3)C=C2)C=CC1)C1=CC=CC=C1 | C38H48N2O7
